US06953790B2
4-(2-Oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carbonyl chloride
Phosgene (20% wt. in toluene; 1.8 mL, 3.43 mmol) was added to a suspension of 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride (100 mg, 0.343 mmol) and 2,6-lutidine (0.50 mL, 4.293 mmol) in dichloromethane (5 mL) at 0° C. After 2 h, the solution was added to saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Dichloromethane (10 mL) was added, and the mixture was filtered to give the title compound as a solid (48 mg). MS 281 (M+1). 1H NMR (500 MHz, (CD3)2SO) δ 11.58 (s, 1H), 7.90 (d, J=5.1 Hz, 1H), 7.67 (d, J=7.6 Hz, 1H), 7.01-6.69 (m, 1H), 4.52-4.46 (m, 1H), 4.31-4.23 (m, 2H), 3.38-3.33 (m, 1H), 3.19-3.14 (m, 1H), 2.32-2.24 (m, 2H), 1.84-1.81 (m, 2H).

reactant | Phosgene | 3.43 mmol, 1.8 mL | C(=O)(Cl)Cl | CCl2O
reactant | 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride | 0.343 mmol, 100 mg | [Cl-].[Cl-].O=C1N(C=2C(=[NH+]C=CC2)N1)C1CC[NH2+]CC1
reactant | 2,6-lutidine | 4.293 mmol, 0.50 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(2-Oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carbonyl chloride | 48 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)Cl | C12H13ClN4O2
